US07812028B2
d) 5-Bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic Acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 19e, using 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid, and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials to give the title compound as a light yellow solid, MS (ISP): 410.0, 412.0 (M+H)+.

reactant | 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid | BrC=1N=CC(=NC1C1=CC=C(C=C1)Cl)C(=O)O | C11H6BrClN2O2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-Bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic Acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)Cl | C17H17BrClN3O2
